** sch_path: /foss/designs/CHIP-PLL/schematics/top/PLL_top.sch
**.subckt PLL_top clk_ref out gd vph vp
*.ipin clk_ref
*.opin out
*.ipin gd
*.ipin vph
*.ipin vp
x1 vp clk_ref cref gd buffer_hv
x2 gd vp cref UP DOWN cvco PFD_cell
x3 vp UP vout_preRC DOWN gd charge_pump_cell
x4 vout_aftRC vout_preRC gd RC_filter
x5 vp net2 net1 gd buf
x6 vph out vp net1 gd level_shifter
**.ends

* expanding   symbol:  CHIP-PLL/schematics/misc/buffer_hv.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/misc/buffer_hv.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/misc/buffer_hv.sch
.subckt buffer_hv vph in out gd
*.ipin in
*.opin out
*.ipin vph
*.ipin gd
XM1 buf_stage_1 in vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM2 buf_stage_1 in gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM3 out buf_stage_1 vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM4 out buf_stage_1 gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CHIP-PLL/schematics/PFD/PFD_cell.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_cell.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/PFD/PFD_cell.sch
.subckt PFD_cell gnd vp cRef UP DOWN cVco
*.iopin gnd
*.iopin vp
*.iopin DOWN
*.iopin UP
*.ipin cRef
*.ipin cVco
XM1 1 cVco 2 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM2 1 DOWN 2 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM3 2 cRef gnd gnd sg13_lv_nmos w=0.3u l=0.15u ng=1 m=1 mm_ok=1
XM6 3 cRef 4 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM7 3 UP 4 gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM8 4 cVco gnd gnd sg13_lv_nmos w=0.3u l=0.15u ng=1 m=1 mm_ok=1
*  x1 -  PFD_buffor  IS MISSING !!!!
*  x2 -  PFD_buffor  IS MISSING !!!!
XM4 1 cRef vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM5 1 cRef pre_up gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM9 3 cVco vp vp sg13_lv_pmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM10 3 cVco pre_down gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
C2 4 gnd 250f
C1 2 gnd 250f
XM11 pre_down net2 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
XM12 pre_up net1 gnd gnd sg13_lv_nmos w=0.6u l=0.15u ng=1 m=1 mm_ok=1
C3 1 gnd 250f
C4 3 gnd 250f
x3 cRef net1 vp gnd inverter_x4
x4 cVco net2 vp gnd inverter_x4
.ends


* expanding   symbol:  CHIP-PLL/schematics/charge_pump/charge_pump_cell.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sch
.subckt charge_pump_cell vp UP vout DN gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
XM12 net1 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM3 net8 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net5 net15 vp vp sg13_lv_pmos w=1.65u l=0.6u ng=1 m=1 mm_ok=1
XM7 net3 bias net5 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM11 net9 UP vp vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 net9 UP gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM5 vout net9 net3 vp sg13_lv_pmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM13 vout DN net13 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM14 net15 bias net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM1 net15 bias net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM17 net1 bias net2 gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM9 net2 net1 gd gd sg13_lv_nmos w=4.8u l=0.6u ng=1 m=1 mm_ok=1
XM10 net10 bias net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM6 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM8 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
XM15 net13 bias net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1 m=1 mm_ok=1
x1 vp gd bias vbias
x2 vp net6 gd curr_source
.ends


* expanding   symbol:  CHIP-PLL/schematics/misc/RC_filter.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/misc/RC_filter.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/misc/RC_filter.sch
.subckt RC_filter out in gd
*.ipin in
*.opin out
*.ipin gd
XR1 out in gd rppd w=0.5e-6 l=0.5e-6 m=1 b=0 mm_ok=1
XC1 out gd cap_mfringe w=2.0u l=2.0u mmin=1 mmax=4
.ends


* expanding   symbol:  CHIP-PLL/schematics/buf/buf.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/buf/buf.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/buf/buf.sch
.subckt buf VDD INPUT OUT GND
*.ipin INPUT
*.iopin VDD
*.iopin GND
*.opin OUT
XM1 net1 INPUT GND GND sg13_lv_nmos w=0.5u l=0.13u ng=1 m=1 mm_ok=1
XM2 net1 INPUT VDD VDD sg13_lv_pmos w=0.75u l=0.13u ng=1 m=1 mm_ok=1
XM3 net2 net1 GND GND sg13_lv_nmos w=1.5u l=0.13u ng=1 m=1 mm_ok=1
XM4 net2 net1 VDD VDD sg13_lv_pmos w=2.25u l=0.13u ng=1 m=1 mm_ok=1
XM5 net3 net2 GND GND sg13_lv_nmos w=4.5u l=0.13u ng=1 m=1 mm_ok=1
XM6 net3 net2 VDD VDD sg13_lv_pmos w=6.75u l=0.13u ng=1 m=1 mm_ok=1
XM7 OUT net3 GND GND sg13_lv_nmos w=4.5u l=0.13u ng=1 m=3 mm_ok=1
XM8 OUT net3 VDD VDD sg13_lv_pmos w=6.75u l=0.13u ng=1 m=3 mm_ok=1
.ends


* expanding   symbol:  CHIP-PLL/schematics/misc/level_shifter.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/misc/level_shifter.sch
.subckt level_shifter vph out vpl in gd
*.ipin in
*.opin out
*.ipin gd
*.ipin vph
*.ipin vpl
XM1 1_stage_out in vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM3 1_stage_out in net1 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM4 net1 in gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM2 2_stage_out 1_stage_out vpl vpl sg13_lv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM5 2_stage_out 1_stage_out net4 gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM6 net4 1_stage_out gd gd sg13_lv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM7 net2 3_stage_out vph vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM8 3_stage_out 2_stage_out gd gd sg13_hv_nmos w=4u l=0.45u ng=1 m=1 mm_ok=1
XM9 4 1_stage_out net2 vph sg13_hv_pmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM10 3_stage_out 2_stage_out net3 vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM11 net3 4 vph vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM12 4 1_stage_out gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM15 buf_out_1 3_stage_out vph vph sg13_hv_pmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM14 buf_out_1 3_stage_out net5 gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM13 net5 3_stage_out gd gd sg13_hv_nmos w=1u l=0.45u ng=1 m=1 mm_ok=1
XM16 buf_out_2 buf_out_1 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=2 mm_ok=1
XM17 buf_out_2 buf_out_1 net6 gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM18 net6 buf_out_1 gd gd sg13_hv_nmos w=2u l=0.45u ng=1 m=2 mm_ok=1
XM19 out buf_out_2 vph vph sg13_hv_pmos w=4u l=0.45u ng=1 m=8 mm_ok=1
XM20 out buf_out_2 net7 gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4 mm_ok=1
XM21 net7 buf_out_2 gd gd sg13_hv_nmos w=4u l=0.45u ng=1 m=4 mm_ok=1
.ends


* expanding   symbol:  CHIP-PLL/schematics/divider/inverter_x4.sym # of pins=4
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/inverter_x4.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/inverter_x4.sch
.subckt inverter_x4 IN OUT VP GND
*.ipin IN
*.iopin VP
*.opin OUT
*.iopin GND
XM1 OUT IN GND GND sg13_lv_nmos w=0.60u l=0.13u ng=1 m=1 mm_ok=1
XM2 OUT IN VP VP sg13_lv_pmos w=0.60u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CHIP-PLL/schematics/charge_pump/vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
XM5 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM6 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1 m=1 mm_ok=1
XM2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM3 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1 m=1 mm_ok=1
XM7 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1 m=1 mm_ok=1
XR1 net1 vbias gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
x1 vp iref gd curr_source
.ends


* expanding   symbol:  CHIP-PLL/schematics/charge_pump/curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
XM9 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM10 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XM1 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1 m=1 mm_ok=1
XM3 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM6 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1 m=1 mm_ok=1
XM2 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1 m=1 mm_ok=1
XR2 net1 gd gd rppd w=1e-6 l=1.7e-6 m=1 b=0 mm_ok=1
.ends

.end
